US05316904
Intermediate A: 5-(2-Furancarboxamido)-2-methylbenzoxazole
5-Amino-2-methylbenzoxazole (14 8 g, 0.100 mol) and 2,6-lutidine (12.0 g, 0.111 mol) were combined with 100 mL of tetrahydrofuran (THF) and the solution was cooled to 3° C. in an ice-bath under nitrogen. 2-Furoyl chloride (13.7 g, 0.105 mol) in 20 mL of THF was added dropwise so as to keep the temperature below 10° C. After addition the ice-bath was removed and after stirring for 1 hour the mixture was poured into 300 mL of water. The solid was collected and washed with water and dried. This afforded 21.1 g (87% yield) of product; m.p. 156°-158° C.

reactant | 5-Amino-2-methylbenzoxazole | 0.100 mol, 8 g | NC=1C=CC2=C(N=C(O2)C)C1 | C8H8N2O
reactant | 2,6-lutidine | 0.111 mol, 12.0 g | N1=C(C=CC=C1C)C | C7H9N
reactant | 2-Furoyl chloride | 0.105 mol, 13.7 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | THF | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 5-(2-Furancarboxamido)-2-methylbenzoxazole | 21.1 g, 87% yield | O1C(=CC=C1)C(=O)NC=1C=CC2=C(N=C(O2)C)C1 | C13H10N2O3
